US06090852
(b) N-Hydroxy 2-[methyl(phenethyl)amino]sulfonylacetamide
In a manner similar to Example 1 (b), methyl 2-[methyl(phenethyl)amino]sulfonyl-acetate was reacted with hydroxylamine to give the title compound as a colourless solid.

reactant | methyl 2-[methyl(phenethyl)amino]sulfonyl-acetate | CN(S(=O)(=O)CC(=O)OC)CCC1=CC=CC=C1 | C12H17NO4S
reactant | hydroxylamine | NO | H3NO
product | N-Hydroxy 2-[methyl(phenethyl)amino]sulfonylacetamide | ONC(CS(=O)(=O)N(CCC1=CC=CC=C1)C)=O | C11H16N2O4S
